US07807700B2
5-isopropyl-2-morpholin-4-yl-1,3-oxazol-4(5H)-one
Synthesis was performed from 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one and morpholine according to Method G+H.

reactant | 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one | NC=1OC(C(N1)=O)C(C)C | C6H10N2O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5-isopropyl-2-morpholin-4-yl-1,3-oxazol-4(5H)-one | C(C)(C)C1C(N=C(O1)N1CCOCC1)=O | C10H16N2O3
